US06784137B2
A solution of 4,5,6-trichloropyridine-2-carbonyl chloride (1.0 g, 4.1 mmol) in dichloromethane (10 mL) was added dropwise to a solution of 2-aminophenol (0.45 g, 4.1 mmol) and triethylamine (0.6 mL) in dichloromethane (30 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for an additional thirty minutes. The solvents were removed and the residue partitioned between 20% tetrahydrofuran/ethyl acetate and 1M hydrochloric acid. The organic layer was separated, washed with saturated sodium bicarbonate, brine, dried (MgSO4) and concentrated to provide N-(2-hydroxyphenyl)-4,5,6-trichloropyridine-2-carboxamide (1.26 g, 4.0 mmol), mp 240° C. (dec).

reactant | 4,5,6-trichloropyridine-2-carbonyl chloride | 4.1 mmol, 1.0 g | ClC1=CC(=NC(=C1Cl)Cl)C(=O)Cl | C6HCl4NO
reactant | 2-aminophenol | 4.1 mmol, 0.45 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(2-hydroxyphenyl)-4,5,6-trichloropyridine-2-carboxamide | 4.0 mmol, 1.26 g | OC1=C(C=CC=C1)NC(=O)C1=NC(=C(C(=C1)Cl)Cl)Cl | C12H7Cl3N2O2
